US06214879B1
6-(2-isothiocyanoto-5-methoxphenoxy)hexanoic acid, represented as TB595 and shown in FIG. 3L was prepared by a number of steps. The first step involves the reaction of 2-nitro-5-methoxyphenol (1.69 g, 10 mmol) with methyl 6-bromohexanoate (2.08 g, 10 mmol) in dry dimethylformamide and anhydrous potassium carbonate (2.0 g, 14.5 mmol) at 60° C. for 12 hours to produce the intermediate ester, methyl 6-(2-nitro-5-methoxyphenoxy)hexanoate. Hydrogenation of methyl 6-(2-nitro-5-methoxyphenoxy)hexanoate using palladium-on-carbon as catalyst afforded the isolation of methyl 6-(2-amino-5-methoxyphenoxy)hexanoate which was saponified in 10% water/ethanol (1:1) solution of potassium hydroxide to give 6-(2-amino-5-methoxyphenoxy)hexanoic acid in 95% yield. Finally, the reaction of 6-(2-amino-5-methoxyphenoxy)hexanoic acid (1.0 g, 3.9 mmol), thiophosgene (0.8 ml, 4.2 mmol), and pyridine (1.0 g, 7 mmol) in tetrahydrofuran at room temperature gave 0.9 g (78% yield) of the desired product as a colorless powder. The structure of the product was confirmed by NMR. Anal. Calcd for C14H17NO4S: C, 56.92; N, 4.74; S, 10.86.

reactant | methyl 6-(2-nitro-5-methoxyphenoxy)hexanoate | [N+](=O)([O-])C1=C(OCCCCCC(=O)OC)C=C(C=C1)OC | C14H19NO6
catalyst | palladium-on-carbon | [Pd] | Pd
product | methyl 6-(2-amino-5-methoxyphenoxy)hexanoate | NC1=C(OCCCCCC(=O)OC)C=C(C=C1)OC | C14H21NO4
